************************************************************************
* auCdl Netlist:
* 
* Library Name:  5323_project
* Top Cell Name: PG_buffer
* View Name:     schematic
* Netlisted on:  Dec  9 00:06:20 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD!
+        GND!

*.PIN VDD!
*+    GND!

************************************************************************
* Library Name: 5323_project
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Y
*.PININFO A:I Y:O
MM0 Y A GND! GND! NMOS_VTL W=100n L=50n
MM1 Y A VDD! VDD! PMOS_VTL W=200n L=50n
.ENDS

************************************************************************
* Library Name: 5323_project
* Cell Name:    buffer
* View Name:    schematic
************************************************************************

.SUBCKT buffer A Y
*.PININFO A:I Y:O
XI1 net5 Y / inv
XI0 A net5 / inv
.ENDS

************************************************************************
* Library Name: 5323_project
* Cell Name:    PG_buffer
* View Name:    schematic
************************************************************************

.SUBCKT PG_buffer Gi Go Pi Po
*.PININFO Gi:I Pi:I Go:O Po:O
XI3 Pi Po / buffer
XI2 Gi Go / buffer
.ENDS

